US07470709B2
Step 1: (2R)-2-[Benzylamino]propan-1-ol
A mixture of (2R)-2-amino propanol (1.2 equivalents), benzaldehyde (1 equivalent), NaHCO3 (1.5 equivalents), and MeOH, (˜1 M) was heated at reflux for 4 hours and then cooled to 0° C. Sodium borohydride (4.8 equivalents) was added portionwise to the stirred reaction mixture during a period of 2 hours at ca. 10° C. The whole was stirred at room temperature for 4 hours. The insoluble materials were filtered off and then the filtrate was concentrated to dryness. The residue was dissolved in CH2Cl2, and the solution was washed successively with water (2×) and brine (1×). The organic extracts were collected and dried (Na2SO4). The solvent was evaporated to give the desired product as a colorless oil, which solidified on standing and was used in the next step without further purification. GC/MS: 134 (100%, M+−CH2OH), Rt 11.57 minutes.

reactant | (2R)-2-amino propanol | 1.2 equivalents | N[C@@H](CO)C | C3H9NO
reactant | benzaldehyde | 1 equivalent | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaHCO3 | 1.5 equivalents | C(=O)(O)[O-].[Na+]
reactant | Sodium borohydride | 4.8 equivalents | [BH4-].[Na+]
solvent | MeOH | ˜1 M | CO | CH4O
product | (2R)-2-[Benzylamino]propan-1-ol | C(C1=CC=CC=C1)N[C@@H](CO)C | C10H15NO
